US04933355
Ethyl 5-{1-ethoxycarbonyl-1-[2-(3-phenylureido)thiazol-4-yl]methylene}rhodanine-3-acetate monohydrate
Following a procedure similar to that described in Example 30, the desired compound was prepared from 2 g of 5-{1-ethoxycarbonyl-1-[2-(3-phenylureido)thiazol-4-yl]methylene}rhodanine-3-acetic acid, 3 g of ethanol and 30 ml of a 4N dioxane solution of hydrogen chloride. The resulting product was a yellow powder having the following physical properties.

reactant | 5-{1-ethoxycarbonyl-1-[2-(3-phenylureido)thiazol-4-yl]methylene}rhodanine-3-acetic acid | 2 g | C(C)OC(=O)C(C=1N=C(SC1)NC(=O)NC1=CC=CC=C1)=C1C(N(C(S1)=S)CC(=O)O)=O | C19H16N4O6S3
reactant | ethanol | 3 g | C(C)O | C2H6O
reactant | hydrogen chloride | Cl | ClH
solvent | dioxane | 4N | O1CCOCC1 | C4H8O2
product | Ethyl 5-{1-ethoxycarbonyl-1-[2-(3-phenylureido)thiazol-4-yl]methylene}rhodanine-3-acetate monohydrate | O.C(C)OC(=O)C(C=1N=C(SC1)NC(=O)NC1=CC=CC=C1)=C1C(N(C(S1)=S)CC(=O)OCC)=O | InChI=1S/C21H20N4O6S3.H2O/c1-3-30-14(26)10-25-17(27)16(34-21(25)32)15(18(28)31-4-2)13-11-33-20(23-13)24-19(29)22-12-8-6-5-7-9-12;/h5-9,11H,3-4,10H2,1-2H3,(H2,22,23,24,29);1H2
